US04536391
To a mixture of 200 ml of THF and 44 ml (0.315 mol) of diisopropylamine was added 168 ml (286 mmols) of hexane solution of 1.70 mol dm-3 butyl lithium at 0° C. The mixture was stirred at 0° C. for 10 minutes and then cooled to -78° C. To the mixture was added 35 ml (260 mmols) of t-butyl acetate, followed by stirring for 1 hour. To the lithium enolate thus formed was added 300 ml of THF solution of 26.4 g (0.1 mol) of α,α'-dibromo-p-xylene. The reaction mixture was stirred at -78° C. to room temperature for 12 hours, and 100 ml of saturated aqueous solution of oxalic acid was thereafter added thereto. The organic layer was separated off and subjected to extraction with ether. The organic layer was dried over MgSO4 and concentrated to obtain an oil, which was then subjected to silica gel column chromatography (90:10 hexane-ether), affording 25.0 g (yield 75%) of t-butyl 3-[4-(2-t-butoxycarbonylethyl)phenyl]propionate in the form of an oil.

reactant | α,α'-dibromo-p-xylene | 0.1 mol, 26.4 g | BrCC1=CC=C(C=C1)CBr | C8H8Br2
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | t-butyl 3-[4-(2-t-butoxycarbonylethyl)phenyl]propionate | 25.0 g, yield 75% | C(C)(C)(C)OC(=O)CCC1=CC=C(C=C1)CCC(=O)OC(C)(C)C | C20H30O4
